US09315521B2
2-{[(1,2-dimethyl-1H-imidazol-5-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (390 mg, 1.6 mmol) was stirred in methanol (50 mL), and a solution of 4 N HCl in dioxane (580 μL, 2.3 mmol) was added dropwise at 0° C. The mixture was stirred for 30 minutes at room temperature. The solvent was removed by evaporation, and the residue was triturated with diethyl ether and dried in vacuo to afford 2-{[(1,2-dimethyl-1H-imidazol-5-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol hydrochloride (412 mg, 92% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.23 (s, 314), 2.55 (s, 3H), 3.68 (s, 3H), 4.48 (s, 2H), 6.12 (s, 1H), 7.51 (s, 1H); LRMS (ES+) m/z 251 (100%, M+1).

reactant | 2-{[(1,2-dimethyl-1H-imidazol-5-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 1.6 mmol, 390 mg | CN1C(=NC=C1CSC1=NC(=CC(=N1)O)C)C | C11H14N4OS
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 2.3 mmol, 580 μL | O1CCOCC1 | C4H8O2
solvent | methanol | 50 mL | CO | CH4O
product | 2-{[(1,2-dimethyl-1H-imidazol-5-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol hydrochloride | 412 mg, 92% yield | Cl.CN1C(=NC=C1CSC1=NC(=CC(=N1)O)C)C | InChI=1S/C11H14N4OS.ClH/c1-7-4-10(16)14-11(13-7)17-6-9-5-12-8(2)15(9)3;/h4-5H,6H2,1-3H3,(H,13,14,16);1H
